US04332809
In the same manner as described in Example 1-(1), 4-methyl-6-(4-dimethylaminophenyl)-2-pyridinecarboxylic acid (1.25 g), carbonyldiimidazole (1.38 g) and 5-aminotetrazole (0.47 g) are reacted to give N-(5-tetrazolyl)-4-methyl-6-(4-dimethylaminophenyl)-2-pyridinecarboxamide (0.3 g). M.P. 265°-269° C. (decomp.) (wetted from 255° C.) (recrystallized from dimethylformamide-ethanol)

reactant | 4-methyl-6-(4-dimethylaminophenyl)-2-pyridinecarboxylic acid | 1.25 g | CC1=CC(=NC(=C1)C1=CC=C(C=C1)N(C)C)C(=O)O | C15H16N2O2
reactant | carbonyldiimidazole | 1.38 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole | 0.47 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-methyl-6-(4-dimethylaminophenyl)-2-pyridinecarboxamide | 0.3 g | N1N=NN=C1NC(=O)C1=NC(=CC(=C1)C)C1=CC=C(C=C1)N(C)C | C16H17N7O
